### PR TITLE
Add tcb arg to replyUnlink etc.

### PR DESCRIPTION
**Pull request by mktnk3**
This updates Haskell replyUnlink, replyRemove, replyPop, and replyClear to take a tcb ref argument, which should be appropriately linked to the first argument.

This corresponds to the C change in seL4 [PR#1808](https://bitbucket.ts.data61.csiro.au/projects/SEL4/repos/sel4/pull-requests/1808/overview) (on the internal bitbucket).

### CODE REVIEW

**Comment by mktnk3** [comment]
Given that many of us have been working on replyUnlink related things, and this PR can potentially help us go over the bump, shall we consider merging this first, maybe? Assuming that there is no issue with the C change, which should be ok.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 1]
```diff
@@ -112,6 +112,7 @@ lemma cancelSignal_st_tcb_at':
                     hoare_drop_imp[where R="\<lambda>rv _. \<exists>a b. delete t (f rv) = a # b" for f])
   done
 
+(* Not used?
```
Comment (pierzchalski) [inline proof/refine/ARM/IpcCancel_R.thy:115]: @michaelmcinerney did you still need this?

File: proof/refine/ARM/Reply_R.thy [hunk 2]
```diff
@@ -8,31 +8,28 @@ theory Reply_R
...
 
-lemma replyUnlink_st_tcb_at'_wp:
-  "\<lbrace>\<lambda>s. reply_at' rptr s \<longrightarrow>
-          obj_at' (\<lambda>reply.
-                      (replyTCB reply = Some tptr \<longrightarrow> test Inactive) \<and>
-                      (replyTCB reply \<noteq> Some tptr \<longrightarrow> st_tcb_at' test tptr s))
-                  rptr s\<rbrace>
-   replyUnlink rptr
-   \<lbrace>\<lambda>_. st_tcb_at' test tptr\<rbrace>"
+lemma replyUnlink_st_tcb_at':
```
Comment (pierzchalski) [inline proof/refine/ARM/Reply_R.thy:15]: 👌

File: proof/refine/ARM/Reply_R.thy [hunk 3]
```diff
@@ -41,25 +38,30 @@ lemma replyUnlink_st_tcb_at'_sym_ref:
...
   done
+*)
 
-lemma replyRemoveTCB_st_tcb_at'_Inactive:
-  "\<lbrace>\<lambda>s. tcb_at' tptr s \<longrightarrow> st_tcb_at' test tptr s \<and> test Inactive\<rbrace>
+lemma replyRemoveTCB_st_tcb_at'_Inactive':
+  "\<lbrace>\<top>\<rbrace>
    replyRemoveTCB tptr
-   \<lbrace>\<lambda>_. st_tcb_at' test tptr\<rbrace>"
+   \<lbrace>\<lambda>_. st_tcb_at' ((=) Inactive) tptr\<rbrace>"
```
Comment (pierzchalski) [inline proof/refine/ARM/Reply_R.thy:46]: Isn't this going to cause issues with goals like `st_tcb_at' (Not o runnable')` or whatever?

File: proof/refine/ARM/TcbAcc_R.thy [hunk 4]
```diff
@@ -5017,6 +5017,13 @@ lemma sts_st_tcb_at'_cases:
   apply fastforce
   done
 
+lemma sts_st_tcb_at'_cases_strong:
+  "\<lbrace>\<lambda>s. tcb_at' t s \<longrightarrow> (t = t' \<longrightarrow> P (P' ts)) \<and> (t \<noteq> t' \<longrightarrow> P (st_tcb_at' P' t' s))\<rbrace>
+     setThreadState ts t
```
Comment (pierzchalski) [inline proof/refine/ARM/TcbAcc_R.thy:5022]: Indentation.

File: proof/refine/ARM/TcbAcc_R.thy [hunk 5]
```diff
@@ -2789,7 +2789,7 @@ lemma threadSet_queued_sch_act_wf[wp]:
   done
 
 lemma tcbSchedEnqueue_pred_tcb_at'[wp]:
-  "\<lbrace>\<lambda>s. pred_tcb_at' proj P' t' s \<rbrace> tcbSchedEnqueue t \<lbrace>\<lambda>_ s. pred_tcb_at' proj P' t' s\<rbrace>"
+  "\<lbrace>\<lambda>s. P (pred_tcb_at' proj P' t' s) \<rbrace> tcbSchedEnqueue t \<lbrace>\<lambda>_ s. P (pred_tcb_at' proj P' t' s)\<rbrace>"
```
Comment (pierzchalski) [inline proof/refine/ARM/TcbAcc_R.thy:2792]: Should this use the invariant syntax?

File: proof/refine/ARM/Reply_R.thy [hunk 6]
```diff
@@ -8,31 +8,28 @@ theory Reply_R
...
 lemma replyUnlink_st_tcb_at'_Inactive:
   "\<lbrace>\<lambda>s. st_tcb_at' test tptr s \<and> test Inactive\<rbrace>
-   replyUnlink rptr
+   replyUnlink rptr tptr'
    \<lbrace>\<lambda>_. st_tcb_at' test tptr\<rbrace>"
-  apply (wpsimp wp: replyUnlink_st_tcb_at'_wp)
+  apply (wpsimp wp: replyUnlink_st_tcb_at')
   done
 
+(* Not used
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Reply_R.thy:32]: Maybe remove this.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Reply_R.thy:46]: Agreed, probably good to leave the more general result in there.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/TcbAcc_R.thy:5022]: I would also use `if then else` but that's just a matter of stlye.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 7]
```diff
@@ -155,17 +156,18 @@ This module specifies the behavior of reply objects.
...
+>     replyUnlink rptr tptr
 
-> replyUnlink :: PPtr Reply -> Kernel ()
-> replyUnlink replyPtr = do
+> replyUnlink :: PPtr Reply -> PPtr TCB -> Kernel ()
+> replyUnlink replyPtr tcbPtr = do
 >     tptrOpt <- getReplyTCB replyPtr
 >     tptr <- maybeToMonad tptrOpt
->     state <- getThreadState tptr
+>     assert (tptr == tcbPtr) "replyTCB is equal to tcbPtr"
```
Comment (MitchellBuckley) [inline spec/haskell/src/SEL4/Object/Reply.lhs:165]: Is this assertion necessary?

File: proof/refine/ARM/TcbAcc_R.thy (hunk 4 above)
Comment (pierzchalski) [reply proof/refine/ARM/TcbAcc_R.thy:5022]: I think the rough consensus is to use `(P -> X) /\ (!P - Y)` for syntactically small `P`, since it means you don't need to add another lifting lemma to your `wp` proofs.

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 7 above)
Comment (pierzchalski) [reply spec/haskell/src/SEL4/Object/Reply.lhs:165]: It would certainly make showing `sym_refs` easier.

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:32]: Well, actually, I think it makes sense to leave these commented out. The changes here will affect the ongoing proofs, and depending on how that goes, these might not be needed at all or there could be some use for them. We might want to wait.

File: proof/refine/ARM/IpcCancel_R.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/IpcCancel_R.thy:115]: Yes this is needed for `suspend_invs'`. I'll update this proof to use this soon

Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:115]: Ok, so, it would be ok to leave these for you to fix up with your `suspend_invs’` proof, right? @michaelmcinerney ?

Comment (michaelmcinerney) [reply proof/refine/ARM/IpcCancel_R.thy:115]: Sure. I can make a PR just for this, but I'd prefer to just include it next time I make a PR for something else

Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:115]: Thanks, I’ll add some comments to note that. I think it should be ok if you include these with your `suspend_ivns’` proof.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (pierzchalski) [reply proof/refine/ARM/Reply_R.thy:46]: Out of curiosity, in what sense is it fiddly?

Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:46]: I don’t quite remember, sorry. It could have been just being non-trivial, but we don’t really need this form anyway, at least at the moment. And I am not sure if the original lemma is actually more general, honestly.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 4 above)
Comment (lsf37) [reply proof/refine/ARM/TcbAcc_R.thy:5022]: In general, the implication form is nicer than `if` because Isabelle likes to split `if`s by default and pull out the implication to the largest scope, which may be outside the hoare triple (that's why we see a lot of `split del: if_split` in `wp` proofs). For this one here that is likely to happen, because both `t` and `t'` are in scope outside the precondition. 

Only when `P` becomes so large that it's annoying to repeat I'd opt for `if`.

File: proof/refine/ARM/Reply_R.thy [hunk 8]
```diff
@@ -8,31 +8,28 @@ theory Reply_R
...
-lemma replyUnlink_st_tcb_at'_wp:
-  "\<lbrace>\<lambda>s. reply_at' rptr s \<longrightarrow>
-          obj_at' (\<lambda>reply.
-                      (replyTCB reply = Some tptr \<longrightarrow> test Inactive) \<and>
-                      (replyTCB reply \<noteq> Some tptr \<longrightarrow> st_tcb_at' test tptr s))
-                  rptr s\<rbrace>
-   replyUnlink rptr
-   \<lbrace>\<lambda>_. st_tcb_at' test tptr\<rbrace>"
+lemma replyUnlink_st_tcb_at':
+  "\<lbrace>\<lambda>s. tcb_at' t s \<longrightarrow> (if t'=t then P (P' Inactive) else P (st_tcb_at' P' t' s))\<rbrace>
```
Comment (lsf37) [inline proof/refine/ARM/Reply_R.thy:16]: I'd also go for the implication form here instead of the `if`

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/ARM/Reply_R.thy:32]: Would it make sense to leave the statement in, but oops the lemma? Might make it slightly easier to find and at least be type checked (although it's not going to turn up in `find_theorems`, so maybe not that important).

In any case, commented-out blocks should get a `FIXME RT` so that we remember to remove them if we didn't need them in the end.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (lsf37) [reply proof/refine/ARM/Reply_R.thy:46]: We could keep the general form, but instantiate and `[wp]` the `Inactive` form with `lemmas`

File: proof/refine/ARM/Reply_R.thy [hunk 9]
```diff
@@ -72,6 +74,7 @@ lemma replyUnlink_tcb_obj_at'_no_change:
               simp: o_def)
   done
 
+(* Not used
```
Comment (lsf37) [inline proof/refine/ARM/Reply_R.thy:77]: Add `FIXME RT`

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 10]
```diff
@@ -100,25 +99,27 @@ This module specifies the behavior of reply objects.
...
 
-> replyRemove :: PPtr Reply -> Kernel ()
-> replyRemove replyPtr = do
+> replyRemove :: PPtr Reply -> PPtr TCB -> Kernel ()
+> replyRemove replyPtr tcbPtr = do
 >     reply <- getReply replyPtr
->     tcbPtrOpt <- return $ replyTCB reply
->     state <- getThreadState $ fromJust tcbPtrOpt
+>     tptr <- maybeToMonad  $ replyTCB reply
+>     assert (tptr == tcbPtr) "replyRemove: replyTCB is equal to tcbPtr"
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Reply.lhs:106]: nitpick:
```suggestion
>     assert (tptr == tcbPtr) "replyRemove: replyTCB is not equal to tcbPtr"
```

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 7 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Reply.lhs:165]: If the `assert` is proof-motivated, it looks fine (it does look like it would help with `sym_refs`). If it is just there because there is one in C, we should remove it.

Oh, also the message should be about the failed assert, i.e.
```suggestion
>     assert (tptr == tcbPtr) "replyTCB is not equal to tcbPtr"
```

or

```suggestion
>     assert (tptr == tcbPtr) "replyTCB must be equal to tcbPtr"
```

File: spec/haskell/src/SEL4/Object/ObjectType.lhs [hunk 11]
```diff
@@ -133,7 +133,9 @@ When the last capability to an endpoint is deleted, any IPC operations currently
 > finaliseCap (ReplyCap { capReplyPtr = ptr }) final _ = do
 >     when final $ do
 >         tptrOpt <- getReplyTCB ptr
->         when (tptrOpt /= Nothing) $ replyClear ptr
+>         when (tptrOpt /= Nothing) $ do
+>             let tptr = fromJust tptrOpt
+>             replyClear ptr tptr
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/ObjectType.lhs:138]: If it's only used once, I'd probably inline the `let` unless there is some other reason (e.g. to line it up with something in C or abstract), i.e.

```suggestion
>             replyClear ptr (fromJust tptrOpt)
```
(and removing the `let` above)

File: proof/refine/ARM/IpcCancel_R.thy (hunk 1 above)
Comment (lsf37) [reply proof/refine/ARM/IpcCancel_R.thy:114]: If you're sure @michaelmcinerney is going to uncomment it again in the next PR I'm fine without a `FIXME RT`, but if there's a chance we might forget, I'd still tag it.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:46]: But the preconditions are different. ..

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 7 above)
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:165]: > If the `assert` is proof-motivated, it looks fine (it does look like it would help with `sym_refs`). If it is just there because there is one in C, we should remove it.

At this point, I alone can’t conclude either way. Whoever actually is going to use this soon would have better ideas, and we can take it from there. Also, I am the one who added it to the C as well at this point. 

> Oh, also the message should be about the failed assert, i.e.

Right, I was wondering about that, and got confused at some point! I’ll fix those up.

File: proof/refine/ARM/Reply_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:32]: Yes, I've talked to Michael and will update those with more info.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 5 above)
Comment (mktnk3) [reply proof/refine/ARM/TcbAcc_R.thy:2792]: I know that it is better to do that, but that’s more for when you are writing a new lemma from scratch, I’d think? I can of course change this, too, but I am not going so strongly in the clean up everything I touch mode, particularly for this one...

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (lsf37) [reply proof/refine/ARM/Reply_R.thy:46]: > In the old theorem, I suspect the st_tcb_at' part of the precondition is not necessary. Perhaps the best of both worlds might be to keep the test, but remove the st_tcb_at' from the precondition.

I think that is correct, yes.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 5 above)
Comment (lsf37) [reply proof/refine/ARM/TcbAcc_R.thy:2792]: You're right, it's not a huge issue. I tend to try to do them, but I also don't do all of them. Up to you.

File: proof/refine/ARM/Reply_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:46]: Well, the lemma I wrote can’t be written as an instantiation of the original one. There is something a bit odd about the original lemma, actually. `replyUnlink t` sets the thread state of `t` to `Inactive` at the end. And `t` is in `BlockedOnReply` at the beginning of the function. So, the original lemma is true only for `test` that happens to be true for both `BlockedOnReply` and `Inactive`. So, it cannot be instantiated to `(=) Inactive`.

This original one is not really general because we do want all `P` that holds for `Inactive` only in the conclusion, regardless of the precondition (without being constrained by `BlockedOnReply`).

And this is only used in
```
lemma cancelIPC_simple[wp]:
   "\<lbrace>\<top>\<rbrace> cancelIPC t \<lbrace>\<lambda>rv. st_tcb_at' simple' t\<rbrace>”
```
which happens to have `simple’` as `test`.

Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:46]: And, really, the `wp` rule Matt is talking about is just the same thing as combining the lemma I wrote with `pred_tcb’_weakenE`.

File: proof/refine/ARM/Reply_R.thy [hunk 12]
```diff
@@ -8,31 +8,28 @@ theory Reply_R
...
   unfolding replyUnlink_def
-  supply if_split[split del]
-  apply (wpsimp wp: sts_st_tcb' hoare_vcg_if_lift2 hoare_vcg_imp_lift
-                    hoare_vcg_disj_lift threadSet_pred_tcb_at_state gts_wp'
-              simp: getReplyTCB_def cong: conj_cong disj_cong)
-  by (fastforce simp: obj_at'_def)
+  apply (wpsimp simp: getReplyTCB_def
+                  wp: sts_st_tcb_at'_cases_strong gts_wp' hoare_vcg_imp_lift
+                cong: conj_cong split: if_split_asm)
+done
```
Comment (VictorPhan) [inline proof/refine/ARM/Reply_R.thy:23]: indent

File: proof/refine/ARM/Reply_R.thy [hunk 13]
```diff
@@ -41,25 +31,30 @@ lemma replyUnlink_st_tcb_at'_sym_ref:
...
   unfolding replyRemoveTCB_def
-  apply (wpsimp wp: hoare_drop_imp (* FIXME: dangerous, but necessary to avoid the goal blowing
-                                             up in size *)
-                    hoare_vcg_if_lift hoare_vcg_all_lift replyUnlink_st_tcb_at'_Inactive
-              simp: cleanReply_def
-         split_del: if_split)
+  apply (wpsimp wp: replyUnlink_st_tcb_at')
+  apply (clarsimp simp: pred_tcb_at'_def)
+  done
+
```
Comment (mktnk3) [inline proof/refine/ARM/Reply_R.thy:44]: This is the lemma with `(=) Inactive` and `pred_tcb’_weakenE`. When the `t` in the postcondition is the same as the argument to `replyRemoveTCB`, which was the case in the original lemma, this is what we need. And this is I believe the same thing as what Matt was saying.
